US08026234B2
Compound 8: (R)-4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(piperidin-3-yl)benzamide
The title compound was synthesized from 4-(9-Cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid as described in the General procedure for amide bond synthesis using HATU and (R)-tert-butyl 3-aminopiperidine-1-carboxylate, where Boc was removed using TFA in DCM. The final compound was purified by reverse phase HPLC and basified to give the free base. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.41-1.52 (m, 2H) 1.52-1.77 (m, 7H) 1.85-1.99 (m, 3H) 2.45 (t, J=9.9 Hz, 2H) 2.85 (d, J=12.4 Hz, 1H) 3.01 (dd, J=11.8, 3.4 Hz, 1H) 3.32 (s, 3H) 3.85 (m, 1H) 3.94 (s, 3H) 4.05 (t, J=14.0 Hz, 3H) 4.76 (quin, J=8.2 Hz, 1H) 7.47 (dd, J=1.8 Hz, 1H) 7.49 (s, 1H) 7.97 (s, 1H) 8.04 (d, J=7.8 Hz, 1H) 8.26 (s, 1H) 8.28 (d, 1H). [M+H] calc'd for C26H33F2N7O3, 530. found 530.

reactant | 4-(9-Cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C21H23F2N5O4
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (R)-tert-butyl 3-aminopiperidine-1-carboxylate | N[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
product | (R)-4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(piperidin-3-yl)benzamide | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)N[C@H]1CNCCC1)C=C2)OC | C26H33F2N7O3
